US04386031
(a) 8-[3-Benzyloxy-N-(4-benzyloxyphenyl)-benzamido]-caprylic acid methyl ester
As described in example 3(b), the reaction is carried out with 4.7 g (13 mmol) of 8-(4-benzyloxyphenyl-amino)-caprylic acid methyl ester, 3.3 (13 mmol) of 3-benzyloxy- benzoic acid choride, 1.5 g (15 mmol) of triethylamine and 100 cc. of ether. Reaction time: 24 hours, reaction temperature: 25° C. The crude product is used in the next reaction step without further purification.

reactant | 8-(4-benzyloxyphenyl-amino)-caprylic acid methyl ester | 13 mmol, 4.7 g | COC(CCCCCCCNC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H29NO3
reactant | 3-benzyloxy- benzoic acid choride | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1 | C14H11ClO2
reactant | triethylamine | 15 mmol, 1.5 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 8-[3-Benzyloxy-N-(4-benzyloxyphenyl)-benzamido]-caprylic acid methyl ester | COC(CCCCCCCN(C(C1=CC(=CC=C1)OCC1=CC=CC=C1)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C36H39NO5
